US07041702B1
Part II: N-(2-Thiophenecarbonyl)-N′-(4-benzyloxyphenyl)guanidine, hydrochloride
Synthesis of this compound was achieved by the method set forth in Example 1, Part II above with the use of N-(2-thiophenecarbonyl)cyanamide in place of N-(4-methylbenzoylcyanamide) and using 4-benzylcyanamide and using 4-benzyloxyaniline hydrochloride instead of 4-isopropylaniline hydrochloride respectively. Yield 61%; m.p. 198–202° C.; Purity 93% (HPLC); 1H-NMR (CD3OD) δ 5.18 (s, 2H, CH2), 7.18 (d, 2H), 7.22–7.4 (m, 6H), 7.44 (d, 2H), 7.9 (d, 1H), 8.18 (d, 1H).

reactant | N-(2-thiophenecarbonyl)cyanamide | S1C(=CC=C1)C(=O)NC#N | C6H4N2OS
reactant | 4-benzyloxyaniline hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
product | N-(2-Thiophenecarbonyl)-N′-(4-benzyloxyphenyl)guanidine, hydrochloride | Yield 61% | Cl.S1C(=CC=C1)C(=O)NC(=N)NC1=CC=C(C=C1)OCC1=CC=CC=C1 | InChI=1S/C19H17N3O2S.ClH/c20-19(22-18(23)17-7-4-12-25-17)21-15-8-10-16(11-9-15)24-13-14-5-2-1-3-6-14;/h1-12H,13H2,(H3,20,21,22,23);1H
